US08455525B2
4-((1R,2S)-2-(tert-Butyldimethylsilyloxy)-1-(5-methyl-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile
TBDMS-Cl (3.20 g, 21.25 mmol) was added to a pre-cooled (0° C.) solution of (2R,3S)—N′-acetyl-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutane hydrazide (2.30 g, 7.08 mmol) and imidazole (2.41 g, 35.41 mmol) in DMF (47 mL). The reaction mixture was allowed to warm to room temperature and stirred overnight, whereupon it was poured into H2O (300 mL) and diluted with EtOAc (50 mL). The organic layer was separated and the aqueous layer extracted with EtOAc (3×50 mL). The combined organic layers were dried (Na2SO4), filtered and concentrated under reduced pressure to provide crude title compound. Step 2: In a separate flask, 12 (2.70 g, 10.63 mmol) and Et3N (3.98 mL, 28.34 mmol) were added sequentially to a solution of PS-Ph3P (3.54 g, 3.0 mmol/g loading) in CH2Cl2 (25 mL) at 0° C. To this solution was added crude hydrazide in CH2Cl2 (51 mL). After 30 min, the reaction mixture was filtered and the mother liquid washed with 10% Na2S2O3 (200 mL), separated and the aqueous layer extracted with CH2Cl2 (3×50 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated to provide a yellow oil, which was purified by flash chromatography over SiO2 (30% EtOAc in hexanes) yielding the title compound (2.9 g, 97%): 1H NMR (400 MHz, DMSO-d6, δ in ppm) 7.49 (d, J=8.8 Hz, 1H), 6.86 (d, J=8.8 Hz, 1H), 5.66-5.63 (m, 1H), 4.98 (dd, J=6.8, 8.8 Hz, 1H), 4.58-4.52 (m, 1H), 2.46 (s, 3H), 2.32 (s, 3H), 1.38 (d, J=6.0 Hz, 3H), 0.83 (s, 9H), 0.09 (s, 3H), 0.01 (s, 3H).

reactant | TBDMS-Cl | 21.25 mmol, 3.20 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | (2R,3S)—N′-acetyl-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutane hydrazide | 7.08 mmol, 2.30 g | C(C)(=O)NNC([C@@H]([C@H](C)O)NC1=C(C(=C(C=C1)C#N)Cl)C)=O | C14H17ClN4O3
reactant | imidazole | 35.41 mmol, 2.41 g | N1C=NC=C1 | C3H4N2
reactant | Et3N | 28.34 mmol, 3.98 mL | CCN(CC)CC | C6H15N
reactant | Ph3P | 3.54 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | DMF | 47 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 51 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 300 mL | O | H2O
product | 4-((1R,2S)-2-(tert-Butyldimethylsilyloxy)-1-(5-methyl-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile | 2.9 g, 97% | [Si](C)(C)(C(C)(C)C)O[C@H]([C@H](C=1OC(=NN1)C)NC1=C(C(=C(C#N)C=C1)Cl)C)C | C20H29ClN4O2Si
